US08258160B2
Synthesis of N-benzyl-4-methyl-2-(oxazol-5-yl)thiazole-5-carboxamide
To a solution of N-benzyl-2-formyl-4-methylthiazole-5-carboxamide (1.09 g, 4.17 mmol) in methanol (60 mL) was added tosylmethyl isocyanide (1.15 g, 5.88 mmol) and potassium carbonate (1.47 g, 10.69 mmol). The reaction mixture was stirred for 50 hours and concentrated in vacuo. The residue was diluted with chloroform and washed with water and brine. The organic solution was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography to afford the title compound in 63% yield (1.00 g): 1H NMR (300 MHz, CDCl3) δ 7.95 (s, 1H), 7.70 (s, 1H), 7.42-7.26 (m, 5H), 6.06 (t, J=5.6 Hz, 1H), 4.61 (d, J=5.6 Hz, 2H), 2.72 (s, 3H); MS (ES+) m/z 300.1 (M+1).

reactant | N-benzyl-2-formyl-4-methylthiazole-5-carboxamide | 4.17 mmol, 1.09 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C=O)C | C13H12N2O2S
reactant | tosylmethyl isocyanide | 5.88 mmol, 1.15 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 10.69 mmol, 1.47 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 60 mL | CO | CH4O
product | N-benzyl-4-methyl-2-(oxazol-5-yl)thiazole-5-carboxamide | 63% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=CN=CO1)C | C15H13N3O2S
